US08283364B2
Stage 3 Preparation of 1,3-difluoro-5-methyl-2-nitrobenzene
A mixture of (3,5-difluoro-4-nitrophenyl)acetic acid (41 g), potassium carbonate (24.6 g) and DMF (205 ml) was slowly heated to about 50° C. for 30 minutes. The reaction was then cooled to about 25° C. and quenched into 2M HCl (1025 ml) and hexane (400 ml) and stirred for 10 minutes. The layers were separated and the aqueous layer was extracted with hexane (400 ml). The combined hexane layers were washed with saturated brine (2×200 ml), then dried with anhydrous sodium sulphate and the solution was concentrated to give the title compound as a low melting solid (26 g).

reactant | (3,5-difluoro-4-nitrophenyl)acetic acid | 41 g | FC=1C=C(C=C(C1[N+](=O)[O-])F)CC(=O)O | C8H5F2NO4
reactant | potassium carbonate | 24.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 205 ml | CN(C)C=O | C3H7NO
product | 1,3-difluoro-5-methyl-2-nitrobenzene | FC1=C(C(=CC(=C1)C)F)[N+](=O)[O-] | C7H5F2NO2
